* TG_10R_5V0 -- CMOS transmission gate, 5 V domain, ~10 ohm on-resistance
* AutoHV BiCMOS 180 PDK | NMOS50/PMOS50, L = 0.5 um, Wp/Wn = 2.5
*
* Bodies are tied to the rails: NMOS body to gnd, PMOS body to vdd.
* This is the shipping default.  Body effect is present and is already
* included in every number in ../REPORT.md.
*
* Port order:  a b en vdd gnd
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/TG_10R_5V0.lib"
*   X1 sig1 sig2 enable vdd 0 TG_10R_5V0
*
* Typical Ron 10 ohm at TT / 5 V / 27 C, worst case over the input
* level.  PVT envelope and the guaranteed input window: ../REPORT.md.

.subckt TG_10R_5V0 a b en vdd gnd
* control inverter: enb = !en  (bodies always on the rails)
XINVP enb en vdd vdd PMOS50 W=70u M=3 L=0.5u
XINVN enb en gnd gnd NMOS50 W=84u M=1 L=0.5u
* pass pair
XN b en  a gnd NMOS50 W=93.3333u M=9 L=0.5u
XP b enb a vdd PMOS50 W=100u M=21 L=0.5u
.ends TG_10R_5V0
